US07820654B2
Step (i). Synthesis of (4,6-dichloro-pyrimidin-2-yl)-(4-trifluoromethoxy-phenyl)-amine
The title compound was prepared by reacting 2,4,6-trichloro pyrimidine (2 g, 10 mmol) with 4-trifluoromethoxy aniline (1.94 g, 10 mmol) in presence of triethylamine (5.5 g, 50 mmol) in a solvent chloroform: hexane (1:1, 20 mL) at reflux temperature for 7 hours.

reactant | 2,4,6-trichloro pyrimidine | 10 mmol, 2 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 4-trifluoromethoxy aniline | 10 mmol, 1.94 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | triethylamine | 50 mmol, 5.5 g | C(C)N(CC)CC | C6H15N
solvent | chloroform hexane | 20 mL | C(Cl)(Cl)Cl.CCCCCC
product | (4,6-dichloro-pyrimidin-2-yl)-(4-trifluoromethoxy-phenyl)-amine | ClC1=NC(=NC(=C1)Cl)NC1=CC=C(C=C1)OC(F)(F)F | C11H6Cl2F3N3O
